US08633173B2
7-[8-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.40 g, 1.46 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.46 g, 1.75 mmol) in a manner analogous to Example 2d. Product was isolated as a foam (0.5 g, 70%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.48 (d, J=6 Hz, 1H), 7.61 (d, J=6 Hz, 1H), 7.51-7.42 (m, 4H), 7.00-6.89 (m, 3H), 6.79 (s, 1H), 3.62-3.45 (m, 4H), 3.29 (s, 3H), 2.84-2.74 (m, 4H), 1.52 (s, 9H). MS=500 (MH)+.

reactant | 2-chloro-8-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.46 mmol, 0.40 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC=C2)COC)=N1 | C14H12ClN3O
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 1.75 mmol, 0.46 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-[8-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC=C1)COC)=N2 | C29H33N5O3
